***************************************************************												
*	Infineon	Technologies	AG									
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX				
*	VALID	UP	TO	15	GHZ							
*	>>>	BFP620	<<<								
*	(C)	2010	Infineon	Technologies	AG		
*	Version 2.0	July	2010									
***************************************************************	
* - Please use the global SPICE parameter TEMP to set the junction
*   temperature of this device in your circuit to get correct DC 
*   simulation results. 
* - TEMP is calculated by TEMP=TA+P*(RthJS+RthSA). The junction 
*   temperature TEMP is the sum of the ambient temperature TA and 
*   the increment of temperature caused by the dissipated power 
*   P=VCE*IC (IC collector current, VCE collector-emitter voltage). 
* - RthJS is the thermal resistance between the junction and the 
*   soldering point. RthJS for this device is 300 K/W. RthSA is the 
*   thermal resistance of the PCB, from the soldering point to the 
*   ambient. For determination of RthSA please refer to Infineon's 
*   Application Note 'Thermal Resistance Calculation' AN077.
* - The model has been verified in the junction temperature range
*   -25°C to +125°C.
* - TNOM=25 °C is the nominal ambient temperature.
*   Please do not change this value.
****************************************************************				
*BFP620ESD C B E1 E2
.SUBCKT BFP620 1 2 3 4


CBEPAR 22 33 1.562E-013
CBCPAR 22 11 4.351E-014
CCEPAR 11 33 2.714E-017
LB    22 20 9.102E-010
LE   33 30 2.101E-010
LC   11 10  5.473E-010
CBEPCK 20 30  7.147E-014
CBCPCK 20 10  4.512E-016
CCEPCK 10 30  1.305E-013
LBX    20 2 7.568E-013
LEX   30 35 3.23E-013
LCX   10 1  3.74E-010
RSUB 30 55 260
RE1 35 3 1E-03
RE2 35 4 1E-03

Q1 11 22 33 55 M_BFP620

.MODEL 	M_BFP620	NPN(										
+	IS	=	1.748E-015									
+	BF	=	715.7									
+	NF	=	1.014									
+	VAF	=	355.5									
+	IKF	=	0.1811									
+	ISE	=	5.653E-015									
+	NE	=	1.737									
+	BR	=	133		
+	NR	=	0.98		
+	VAR	=	1.322	
+	IKR	=	0.1924		
+	ISC	=	3.85E-015		
+	NC	=	1.5		
+	RB	=	6.173		
+	IRB	=	0.0007028		
+	RBM	=	4.626	
+	RE	=	0.02592		
+	RC	=	2.429	
+	XTB	=	-2.482		
+	EG	=	1.034		
+	XTI	=	0.808		
+	CJE	=	2.006E-013		
+	VJE	=	0.4743		
+	MJE	=	0.1954		
+	TF	=	1.093E-012		
+	XTF	=	1.61		
+	VTF	=	0.8193		
+	ITF	=	3.179		
+	PTF	=	0.2896		
+	CJC	=	1.474E-013		
+	VJC	=	0.6877		
+	MJC	=	0.3684		
+	XCJC	=	0.6466		
+	TR	=	8.156E-008
+	CJS	=	4.594E-014		
+	MJS	=	0.3621
+   VJS =   0.6322 		
+	FC	=	0.8156		
+	KF	=	2.56E-011		
+	AF	=	1.798)
***************************************************************					
					

.ENDS BFP620
